US07018988B2
(2S,4EZ)-1-[(2′,6′-dimethyl[1,1′-biphenyl]-4-yl)carbonyl]-N-[2-hydroxy-1-(hydroxymethyl)ethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′,6′-dimethyl[1,1′-biphenyl]-4-carboxylic acid, and 2-amino-1,3-propanediol, the title compound was obtained in 70% purity by HPLC. MS(ESI+): m/z=440.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′,6′-dimethyl[1,1′-biphenyl]-4-carboxylic acid | CC1=C(C(=CC=C1)C)C1=CC=C(C=C1)C(=O)O | C15H14O2
reactant | 2-amino-1,3-propanediol | NC(CO)CO | C3H9NO2
product | (2S,4EZ)-1-[(2′,6′-dimethyl[1,1′-biphenyl]-4-yl)carbonyl]-N-[2-hydroxy-1-(hydroxymethyl)ethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide | CC1=C(C(=CC=C1)C)C1=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C(=O)NC(CO)CO | C24H29N3O5
